US06949648B2
N,N-Dimethyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine
4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline (1.00 g, 3.39 mmol) was added to a 2M dimethylamine in tetrahydrofuran solution (5.00 mL, 10.0 mmol), and the solution was heated under reflux overnight at 100° C. in a sealed tube. The solution was cooled to room temperature and poured into water, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (ethyl acetate to ethyl acetate:methanol=9:1) to give the title compound (1.00 g, 97% yield).

reactant | 4-chloro-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 3.39 mmol, 1.00 g | ClC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C16H11ClN4
reactant | dimethylamine | 2M | CNC | C2H7N
reactant | tetrahydrofuran | 10.0 mmol, 5.00 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N,N-Dimethyl-N-[3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinolin-4-yl]amine | 1.00 g, 97% yield | CN(C1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2)C | C18H17N5
